US07977351B2
2-{4-[2-(2-Hydroxy-ethoxy)-ethyl]-piperazin-1-ylmethyl}-7H-furo[3,4-b]pyridin-5-one
In a process similar to that described in Preparation 8, 5-oxo-5,7-dihydro-furo[3,4-b]pyridine-2-carbaldehyde (150 mg, 0.92 mmol) and 1-[2-(2-hydroxyethoxy)ethyl]-piperazine (181 μL, 1.01 mmol) are reacted to provide the title compound as yellow oil (80 mg, 27%).

reactant | 5-oxo-5,7-dihydro-furo[3,4-b]pyridine-2-carbaldehyde | 0.92 mmol, 150 mg | O=C1OCC2=NC(=CC=C21)C=O | C8H5NO3
reactant | 1-[2-(2-hydroxyethoxy)ethyl]-piperazine | 1.01 mmol, 181 μL | OCCOCCN1CCNCC1 | C8H18N2O2
product | 2-{4-[2-(2-Hydroxy-ethoxy)-ethyl]-piperazin-1-ylmethyl}-7H-furo[3,4-b]pyridin-5-one | 80 mg, 27% | OCCOCCN1CCN(CC1)CC1=CC=C2C(=N1)COC2=O | C16H23N3O4
